US06730674B2
6-(4-Fluoro-phenylsulfanyl)-2H-pyridazin-3-one
A mixture of 3-(4-fluoro-phenylsulfanyl)-6-methoxy-pyridazine (250 mg), prepared by a procedure analogous to step 1 of Example 2, and concentrated hydrochloric acid was prepared and refluxed for 30 minutes. The mixture was then evaporated to dryness. The resulting residue was purified by silica gel chromatography (ethyl acetate as eluent) to afford the title compound (65%, 152 mg); mp, 99-101° C.

reactant | 3-(4-fluoro-phenylsulfanyl)-6-methoxy-pyridazine | 250 mg | FC1=CC=C(C=C1)SC=1N=NC(=CC1)OC | C11H9FN2OS
reactant | hydrochloric acid | Cl | ClH
product | 6-(4-Fluoro-phenylsulfanyl)-2H-pyridazin-3-one | 152 mg, 65% | FC1=CC=C(C=C1)SC=1C=CC(NN1)=O | C10H7FN2OS
